.subckt not1 a z vdd vss 
X0 z a vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X1 z a vdd vdd sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
C0 a vdd 0.08234f
C1 z a 0.03665f
C2 z vdd 0.22219f
C3 z vss 0.25495f
C4 vdd vss 0.56117f
.ends
